US07282605B2
Methyl 2-allyloctanoate
A solution of 0.345 g (1.0 mmol) of N-methyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine in 5 ml of methanol was cooled to 0° C., 0.386 g (2.0 mmol) of NaOMe (28% solution in methanol) was added, and the mixture was stirred for 22 hours. The reaction was terminated by addition of 2 ml of 1 N hydrochloric acid, and the product was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, the solvent was distilled off, and the residue was isolated/purified on a silica gel column to give 0.10 g (51%) of the title compound. N-(2-Allyloctanoyl)-(R)-1-phenylethylamine was formed as a byproduct in 45% yield.

reactant | N-methyloxycarbonyl-N-(2-allyloctanoyl)-1-(R)-phenylethylamine | 1.0 mmol, 0.345 g | COC(=O)N(C(C(CCCCCC)CC=C)=O)[C@H](C)C1=CC=CC=C1 | C21H31NO3
reactant | NaOMe | 2.0 mmol, 0.386 g | C[O-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
product | Methyl 2-allyloctanoate | 0.10 g, 51% | C(C=C)C(C(=O)OC)CCCCCC | C12H22O2
